US06071927
2-Bromo-4-trifluoromethoxy-isopropoxybenzene
To a solution of 2-bromo-4-trifluoromethoxyphenol (Description 11; 1 g, 3.9 mmol) and K2CO3 (1.1 g, 7.8 mmol) in dimethylformamide (15 ml) was added 2-bromopropane (0.55 ml, 5.9 mmol). The solution was stirred for 14 h. at room temperature under an atmosphere of nitrogen. Waster (200 ml) and ethyl acetate (3×70 ml) was added to the solution and the organic phase washed with water (100 ml), brine (100 ml) and dried (MgSO4). The solvent was removed in vacuo and the residue purified by chromatography on silica gel (eluting with 5% ethyl acetate in hexane) to give the title compound. 1H NMR (250 MHz, CDCl3) δ1.38 (6H, d, J 6.1 Hz), 4.53 (1H, m), 6.88 (1H, d, J, 9 Hz), 7.12 (1H, dd, J 8.8, 2.6 Hz), and 7.43 (1H, d, J 2.8 Hz).

reactant | 2-bromo-4-trifluoromethoxyphenol | 3.9 mmol, 1 g | BrC1=C(C=CC(=C1)OC(F)(F)F)O | C7H4BrF3O2
reactant | K2CO3 | 7.8 mmol, 1.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromopropane | 5.9 mmol, 0.55 ml | BrC(C)C | C3H7Br
reactant | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-Bromo-4-trifluoromethoxy-isopropoxybenzene | BrC1=C(C=CC(=C1)OC(F)(F)F)OC(C)C | C10H10BrF3O2
